US08541429B2
Step 1: N′-(1-acetylpiperidin-4-ylidene)benzohydrazide
20 g (0.142 mol) of 1-acetyl-4-piperidone were dissolved in 400 mL of absolute ethanol and 21.2 g (0.156 mol) of benzoylhydrazine were added. The resulting solution was refluxed for 6 hours under stirring. The solvent was then removed in vacuo and the residue partitioned between dichloromethane and water. The organic layer was dried over sodium sulfate and evaporated to dryness. The residue was triturated with diethylether and 30 g (83% yield) of the title compound were collected by filtration.

reactant | 1-acetyl-4-piperidone | 0.142 mol, 20 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | benzoylhydrazine | 0.156 mol, 21.2 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | diethylether | C(C)OCC | C4H10O
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | N′-(1-acetylpiperidin-4-ylidene)benzohydrazide | 30 g, 83% yield | C(C)(=O)N1CCC(CC1)=NNC(C1=CC=CC=C1)=O | C14H17N3O2
